reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9].[C:3]([O:4][H:13])[H:12],81.16816955991091
[C:1]([C:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([O:5][H:15])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3][O:5][H:15])([H:9])[H:10])([H:6])([H:7])[H:8].[C:4]([H:11])([H:12])([H:13])[H:14],83.7160454584446
[C:1](/[C:2](=[N:3]\[H:11])[H:9])([H:6])([H:7])[H:8].[C:4]=[N:5][H:10]>>[C:1]([C@@:2]([N:3]([H:10])[H:11])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8],25.735662917763193
[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2]([O:3][H:10])=[C:4](\[C:5]#[N:6])[H:11])([H:7])([H:8])[H:9],56.6952657650992
[C:1]([C@@:2]1([H:11])[C@:3]([C:4]#[N:5])([H:12])[N:6]1[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([N:6]([C@@:3]1([H:12])[C:4]([H:10])=[N:5]1)[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])[H:9],87.7633518773598
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([N:4]([H:13])[H:14])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([C-:2]([N+:4]([C:3]([H:10])([H:11])[H:12])([H:13])[H:14])[C:5]#[N:6])([H:7])([H:8])[H:9],108.304482051254
[C:1]([C:2]([C@@:3]1([H:13])[O:4]/[C:6](=[N:7]\[H:14])[C:5]1([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],66.41622555577291
[C:1]([C@:2]12[N:3]([H:10])[O:6][C@@:5]1([H:11])[O:4]2)([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9],39.4765988205009
[C:1]([C:2]1=[O+:3][C-:5]=[C:6]([H:12])[C:4]1([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],16.7683494962708
[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:4](=[C:5])[C:6]1=[C:7]([H:14])[H:15])([H:8])([H:9])[H:10],91.08298809218172
[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]1[C@:2]2([H:7])[C:3]([H:8])([H:9])[O:4][C@@:5]1([H:10])[O:6]2,59.5921810497931
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([C:3](=[O:4])[H:12])[C@@:5]([N:7]([H:13])[H:14])([H:11])[O:6]1)([H:8])([H:9])[H:10],94.7522832941
[H:6][H:9].[O:1]([C:2]1=[C:4]([H:10])[C:3]1([H:7])[H:8])[H:5]>>[O:1]([C:2]1([H:6])[C:3]([H:7])([H:8])[C:4]1([H:9])[H:10])[H:5],67.2767801088412
[C:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O+:3]=[C-:2][C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],115.894360545392
[O:1]([C@:2]1([H:7])[C:3]([H:8])([H:9])[C:4]([H:11])=[C:5]=[C:6]1[H:12])[H:10]>>[O:1]=[C:2]([C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],33.232810995172024
[C:1]([C:2]([O:3][C:4]([N:5]=[C:6]([H:13])[H:15])([H:12])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],67.45469337971291
[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[N:5]1[C:6]([H:15])([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]1([H:12])[C-:4]([H:14])[N+:5]1([C:6]([H:15])([H:16])[H:17])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],64.7726379572513
[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]=[C:4]=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],93.62634324991801
[C:1](#[C:2][H:5])[C:3]#[N:4]>>[C:1]=[C:2]([C:3]#[N:4])[H:5],54.33486005854179
[C:1]([C:2]([O:3][C:4](/[C:5](=[N:6]/[H:14])[H:11])([H:12])[H:13])=[O:7])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C:4]([H:12])([H:13])/[C:5](=[N:6]/[H:14])[O:7]1)([H:8])([H:9])[H:10],83.05652457990533
[C:1]([C:2](=[O:3])[H:11])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:8])[H:10].[H:9][H:12]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],82.8419692694037
[C:1]([C@@:2]([O:3][H:10])([C:4](=[O:5])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]([O:3][H:10])([C:4][O:5][H:11])[H:9])([H:6])([H:7])[H:8],80.11063803192579
[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2][C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])([H:8])([H:9])[H:10].[O:3]([H:11])[H:12],76.4985423221877
[C:1]([C:2](=[C:3])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]#[C:3][C:4]#[N:5])([H:6])([H:7])[H:8],2.3141867088208983
[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12]>>[C-:1](=[O+:2][C:3]1([H:8])[C:4]([H:9])([H:10])[O:5][C:6]1([H:11])[H:12])[H:7],79.1670796912961
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:12])[H:13])[C@@:4]1([H:14])[C:5]([H:15])([H:16])[C:6]1=[C:7]([H:11])[H:17])([H:8])([H:9])[H:10],101.77953968423999
